US04555508
A. 4-Hydroxy-L-Proline Ethyl Ester Hydrochloride
To a solution of N-Cbz-4-hydroxy-L-proline ethyl ester (3.29 g) in 40 ml ethanol was added 6 ml of ethanol saturated with gaseous HCl followed by 10% palladium on carbon (0.50 g). The mixture was hydrogenated on a Parr Hydrogenator at 30-40 psi for 3 hours. The solution was filtered over celite and concentrated in vacuo to provide 2.09 g of the crystalline product.

reactant | N-Cbz-4-hydroxy-L-proline ethyl ester | 3.29 g | C(C)OC([C@H]1N(CC(C1)O)C(=O)OCC1=CC=CC=C1)=O | C15H19NO5
reactant | HCl | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.50 g | [Pd] | Pd
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 4-Hydroxy-L-Proline Ethyl Ester Hydrochloride | 2.09 g | Cl.C(C)OC([C@H]1NCC(C1)O)=O | InChI=1S/C7H13NO3.ClH/c1-2-11-7(10)6-3-5(9)4-8-6;/h5-6,8-9H,2-4H2,1H3;1H/t5?,6-;/m0./s1
